US06326398B1
A solution of 4-(3-benzyloxy-4-methoxyphenoxy)-3,5-dimethylnitrobenzene (1.65 g), TFA (3.5 mL) and thioanisole (2.2 mL) were stirred for 4 h. The reaction was partitioned between ethyl acetate and water, the organic layer dried over sodium sulfate and concentrated in vacuo. Flash chromatography afforded 4-(3-hydroxy-4-methoxyphenoxy)-3,5-dimethylnitrobenzene (1.2 g) as a yellow oil.

reactant | 4-(3-benzyloxy-4-methoxyphenoxy)-3,5-dimethylnitrobenzene | 1.65 g | C(C1=CC=CC=C1)OC=1C=C(OC2=C(C=C(C=C2C)[N+](=O)[O-])C)C=CC1OC | C22H21NO5
reactant | TFA | 3.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | thioanisole | 2.2 mL | C1(=CC=CC=C1)SC | C7H8S
product | 4-(3-hydroxy-4-methoxyphenoxy)-3,5-dimethylnitrobenzene | 1.2 g | OC=1C=C(OC2=C(C=C(C=C2C)[N+](=O)[O-])C)C=CC1OC | C15H15NO5
